US04743685
(C) (S)-[1-[[[[4-[[[4,5-Bis(phenylmethoxy)-2-pyridinyl]carbonyl]amino]-2,3-dioxo-1-piperazinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
To a suspension of (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone (2.02 g, 9.18 mmol) in 130 ml of ethyl acetate, chlorosulfonyl isocyanate (1.43 g, 10 mmol) was added, and, after stirring for one hour, triethylamine (2.79 g, 27.54 mmol) was added at 0° C. To this mixture, a prestirred solution (1.5 hours) of N-(2,3-dioxo-1-piperazinyl)-4,5-bis(phenylmethoxy)-2-pyridinecarboxamide (4.10 g, 9.18 mmol) and N-methyl-N-(trimethylsilyl)trifluoroacetamide (5.4 g, 27.54 mmol) in 150 ml of ethyl acetate was added. After stirring overnight at room temperature, 220 ml of ice water was added and the pH was adjusted to 2 (from 10.3) with 3N hydrochloric acid. When the separated organic phase was treated with brine, the title compound precipitated and was filtered, washed with water and dried in vacuo, yielding 5.35 g. When 2.5 g of this material was triturated for one hour with a mixture of 25 ml of water and 37.5 ml of acetone at pH 6.3, 2.12 g of the title compound was obtained.

reactant | (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | 9.18 mmol, 2.02 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.43 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | triethylamine | 27.54 mmol, 2.79 g | C(C)N(CC)CC | C6H15N
reactant | N-(2,3-dioxo-1-piperazinyl)-4,5-bis(phenylmethoxy)-2-pyridinecarboxamide | 9.18 mmol, 4.10 g | O=C1N(CCNC1=O)NC(=O)C1=NC=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H22N4O5
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 27.54 mmol, 5.4 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (S)-[1-[[[[4-[[[4,5-Bis(phenylmethoxy)-2-pyridinyl]carbonyl]amino]-2,3-dioxo-1-piperazinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)NN1C(C(N(CC1)S(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)=O)=O | C36H33N7O11S
